US06849622B2
To a dimethylformamide (7 ml) solution containing N-(tert-butoxycarbonyl)piperazine (1.0 g) were added potassium carbonate (742 mg) and then butyl iodide (1.09 g), and the mixture was stirred at room temperature for 15 hours to undergo reaction, thereby obtaining N-tert-butoxycarbonyl-N-butylpiperazine. This compound was acid-treated with hydrochloric acid to obtain N-butylpiperazine.dihydrochloride.

reactant | N-(tert-butoxycarbonyl)piperazine | 1.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 742 mg | C([O-])([O-])=O.[K+].[K+]
reactant | butyl iodide | 1.09 g | C(CCC)I | C4H9I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | N-butylpiperazine.dihydrochloride | Cl.Cl.C(CCC)N1CCNCC1 | InChI=1S/C8H18N2.2ClH/c1-2-3-6-10-7-4-9-5-8-10;;/h9H,2-8H2,1H3;2*1H
